US07348328B2
Diethylzinc(1 M in hexane, 19 ml, 19 mmole) was mixed with 50 ml methylene chloride and the mixture was cooled to 0° C. Trifluoroacetic acid (2.1 g, 19 mmole) in 20 mL methylene chloride was added. The mixture was stirred at 0° C. for 20 minutes. Diiodomethane (5 g, 19 mmole) in 10 ml methylene chloride was then added, followed by 4-(3-cyanophenyl)-3-cyclohexene-1-one ethylene ketal (1.5 g, 6.2 mmole) in 20 mL methylene chloride. The mixture was stirred at room temperature overnight. 50 ml 1N hydrogen chloride solution was added to quench the reaction. The organic layer was separated, washed with water (2×50 mL) and dried over sodium sulfate. The product was purified by column using ethyl acetate/hexane (10/90) as the eluent to afford 6-(3-cyanophenyl)bicyclo[4.1.0]heptane-3-one ethylene ketal (0.8 g, 50%).

reactant | Diethylzinc | 19 mmole, 1 M, 19 ml | C(C)[Zn]CC
reactant | Trifluoroacetic acid | 19 mmole, 2.1 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | Diiodomethane | 19 mmole, 5 g | ICI | CH2I2
reactant | 4-(3-cyanophenyl)-3-cyclohexene-1-one ethylene ketal | 6.2 mmole, 1.5 g | C1COC2(CC=C(CC2)C2=CC(=CC=C2)C#N)O1 | C15H15NO2
reactant | hydrogen chloride | 1N, 50 ml | Cl | ClH
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-(3-cyanophenyl)bicyclo[4.1.0]heptane-3-one ethylene ketal | 0.8 g, 50% | C1COC2(CC3CC3(CC2)C2=CC(=CC=C2)C#N)O1 | C16H17NO2
